US08703758B2
B) benzyl 4-(2-oxoethoxy)piperidine-1-carboxylate
To a mixture of benzyl 4-(2-hydroxyethoxy)piperidine-1-carboxylate (6.33 g), triethylamine (15.9 mL) and dimethyl sulfoxide (30 mL) were added dropwise a mixture of sulfur trioxide pyridine complex (10.8 g) and dimethyl sulfoxide (30 mL) at room temperature, and the obtained mixture was stirred at room temperature for 1 hr. Water was added thereto, and the obtained mixture was extracted with ethyl acetate. The extract was washed with 1M hydrochloric acid and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.28 g).

reactant | benzyl 4-(2-hydroxyethoxy)piperidine-1-carboxylate | 6.33 g | OCCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H21NO4
reactant | triethylamine | 15.9 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | benzyl 4-(2-oxoethoxy)piperidine-1-carboxylate | 4.28 g | O=CCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H19NO4
